US07595398B2
(R)-4-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-thiazolidine-3-carboxylic acid benzyl ester (Compound 5327)
(R)-Thiazolidine-3,4-dicarboxylic acid 3-benzyl ester (52.5 mg, 0.20 mmol) was dissolved in DMF (2 mL). DIEA (68.5 μL, 0.39 mmol) was added followed by HATU (74.8 mg, 0.20 mmol). The reaction was stirred at ambient temperature for 15 minutes. Then 4-(2-Amino-thiazol-4-yl)-N-cyclopropyl-benzamide (51.1 mg, 0.20 mmol) was added, and the reaction was stirred at ambient temperature overnight. The reaction was filtered and purified by reverse phase HPLC to give the desired product. Yield 18.5 mg. MS: 509.1 (M+H+); H1 NMR (DMSO-d6): δ(ppm) 0.54-0.75 (m, 4H), 2.78-2.90 (m, 1H), 4.51-4.59 (m, 1H), 4.62-4.70 (m, 1H), 4.83-5.18 (m, 3H), 7.07-7.43 (m, 5H), 7.77-7.99 (m, 5H), 8.39-8.47 (m, 1H), 12.55-12.64 (s, 1H).

reactant | (R)-Thiazolidine-3,4-dicarboxylic acid 3-benzyl ester | 0.20 mmol, 52.5 mg | C(C1=CC=CC=C1)OC(=O)N1CSC[C@H]1C(=O)O | C12H13NO4S
reactant | DIEA | 0.39 mmol, 68.5 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.20 mmol, 74.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(2-Amino-thiazol-4-yl)-N-cyclopropyl-benzamide | 0.20 mmol, 51.1 mg | NC=1SC=C(N1)C1=CC=C(C(=O)NC2CC2)C=C1 | C13H13N3OS
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-4-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-thiazolidine-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CSC[C@H]1C(NC=1SC=C(N1)C1=CC=C(C=C1)C(NC1CC1)=O)=O | C25H24N4O4S2
